US07825253B2
N5-Benzyl-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine
The title compound, MS: m/e=370.0 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 2-methoxybenzylamine and benzylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | N5-Benzyl-N2-(2-methoxy-benzyl)-quinoline-2,5-diamine | C(C1=CC=CC=C1)NC=1C=2C=CC(=NC2C=CC1)NCC1=C(C=CC=C1)OC | C24H23N3O
